US05459137
1-[4-(N,N-diethylglycylamino)phenyl]-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
It was prepared from 1-(4-chloroacetylaminophenyl)-3-acetyl-4-methyl -7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine and diethylamine by using the process described in Example 102, m.p. 175°-176° C.

reactant | 1-(4-chloroacetylaminophenyl)-3-acetyl-4-methyl -7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | ClCC(=O)NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O | C21H20ClN3O4
reactant | diethylamine | C(C)NCC | C4H11N
product | 1-[4-(N,N-diethylglycylamino)phenyl]-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | C(C)N(CC(=O)NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O)CC | C25H30N4O4
